US06372764B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(vinyl)pyrrolidine
To a suspension of 0.08 g (0.22 mmol) of methyltriphenyl phosphonium bromide (Ph3PCH3Br) in 4 mL of THF at rt was added 0.36 mL of potassium bis(trimethylsilyl)amide and the reaction mixture was stirred for 30 min. The reaction mixture was cooled to 0° C. and to it was added a solution of 0.04 g (0.089 mmol) of 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-formylpyrrolidine in 2 mL of THF. The reaction mixture was warmed to rt and stirred for 1.2 h. The reaction mixture was filtered through a thin pad of silica eluting with acetone:hexanes, 1:2, then concentrated. The residue was purified by chromatography (silica, acetone:hexanes, 1:2) to give the title compound. Mass Spectrum (ESI) m/e=444 (M+1).

reactant | potassium bis(trimethylsilyl)amide | 0.36 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-formylpyrrolidine | 0.089 mmol, 0.04 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C=O)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H29FN2O2
catalyst | methyltriphenyl phosphonium bromide | 0.22 mmol, 0.08 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(vinyl)pyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C=C)CN1CCC(CC1)C1=CC=C(C=C1)F | C29H31FN2O
